US08349880B2
Step AAI (4): NaHMDS 2.0 M in THF (11.0 mL, 21.9 mmol) was added to a solution of 2-(4-fluorophenyl)acetic acid (1.50 g, 9.73 mmol) in THF (19.5 mL) at 0° C. The resulting mixture was stirred for 20 min at 0° C., then neat 2-(bromomethyl)-4-chlorobut-1-ene (1.96 g, 10.7 mmol) was added. After 10 min, the mixture was quenched with a water (5 mL) and concentrated in vacuo. The mixture was diluted with EtOAc and the organic layer was washed with 1N HCl, then brine, dried over sodium sulfate, and concentrated in vacuo to afford 5-(chloromethyl)-2-(4-fluorophenyl)hex-5-enoic acid. The titled product was used for subsequent chemistry without further purification. LC-MS (M−H)− 255.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.24-7.41 (2 H, m), 6.96-7.11 (2 H, m), 4.91 (2 H, d, J=3.1 Hz), 3.82 (1 H, dd, J=8.7, 6.9 Hz), 3.60 (2 H, t, J=7.2 Hz), 2.84 (1 H, dd, J=15.0, 8.9 Hz), 2.39-2.55 (3 H, m).

reactant | NaHMDS | 2.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-(4-fluorophenyl)acetic acid | 9.73 mmol, 1.50 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 2-(bromomethyl)-4-chlorobut-1-ene | 10.7 mmol, 1.96 g | BrCC(=C)CCCl | C5H8BrCl
solvent | THF | 19.5 mL | C1CCOC1 | C4H8O
solvent | THF | 21.9 mmol, 11.0 mL | C1CCOC1 | C4H8O
product | 5-(chloromethyl)-2-(4-fluorophenyl)hex-5-enoic acid | ClCC(CCC(C(=O)O)C1=CC=C(C=C1)F)=C | C13H14ClFO2
